2158-02-02 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed sqamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
 BLOOD CULTURED - At [**2158-2-1**] 04:35 PM
 NASAL SWAB - At [**2158-2-1**] 04:55 PM
 INVASIVE VENTILATION - START [**2158-2-1**] 10:16 PM
 ARTERIAL LINE - START [**2158-2-2**] 12:10 AM
 BLOOD CULTURED - At [**2158-2-2**] 04:31 AM
   Intubated as too agitated on bipap (RR 60
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-1**] 05:44 PM
   Azithromycin - [**2158-2-1**] 10:34 PM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-1**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 81 (79 - 123) bpm
   BP: 106/51(72) {82/38(55) - 129/60(89)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,032 mL
                                                                  1,103 mL
   PO:
             TF:
   IVF:
                                                                  1,032 mL
                                                                  1,103 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    500 mL
   Urine:
                                                                    285 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    747 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 500) mL
   Vt (Spontaneous): 429 (384 - 472) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.37/50/149/28/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 298
   Physical Examination
   GENERAL: Intubated elderly woman in NAD, sedated.
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA. OP clear.  Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Loud left lower lobe rhonchi and expiratory wheezes throughout.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   PSYCH: Sedated
   Labs / Radiology
   232 K/uL
   9.3 g/dL
   166 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   15 mg/dL
   102 mEq/L
   137 mEq/L
   28.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2158-2-1**]  03:55 PM
                             [**2158-2-1**]  04:13 PM
                             [**2158-2-1**]  08:47 PM
                             [**2158-2-1**]  10:21 PM
                             [**2158-2-2**]  12:49 AM
                             [**2158-2-2**]  02:20 AM
                             [**2158-2-2**]  04:25 AM
                             [**2158-2-2**]  05:05 AM
   WBC
   12.6
   13.6
   11.0
   Hct
   30.4
   31.0
   28.2
   Plt
   227
   246
   232
   Cr
   0.4
   0.5
   0.5
   TropT
   0.13
   TCO2
   31
   33
   30
   29
   30
   Glucose
   130
   151
   166
   Other labs: PT / PTT / INR:13.0/21.4/1.1, CK / CKMB /
   Troponin-T:145/12/0.13, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, LDH:260 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.5
   mg/dL
   Imaging: CXR [**2158-2-1**]
   FINDINGS: There are no comparisons available. There is a large
   parenchymal
   opacity in the lingula. This opacity leads to partial obliteration of
   the
   cranial lateral heart border. The opacity extends above the heart
   border where it has an ill-defined margin. At the base of the right
   lung, minimally opacities are seen. The remaining lungs is
   unremarkable. There is moderate cardiomegaly without signs of
   overhydration. Status post vertebroplasty. No secure evidence of
   pleural effusion.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   .
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs.
   -- Change propofol to fentanyl/versed
   -- Pneumonia will require broad coverage; Vancomycin, Cipro and Zosyn
   given risk of MRSA and gram negatives / pseudomonas given recent
   hospitalizations
   -- Interventional pulmonary and radiation oncology consulted regarding
   possible interventions for obstruction relief
   -- Lung cancer management pending, Heme/ONC consult in AM
   -- COPD exacerbation treatement with:
   - IV Solumedrol
   - Atrovent / Albuterol / Mucomyst
   - Abx as above.
   -- CT Torso s contrast (allergy of hives)
   -- D/w IP re: ? bronch
   .
   #. NSTEMI / ACS: Likely demand ischemia in the setting
   -- Cycle enzymes
   .
   #. SQUAMOUS CELL LUNG CANCER: As above, will need formal evaluation by
   ONC team
   -- Rad onc consult
   -- Heme onc consult
   .
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty
   .
   # Hypertension: Hold home diltiazem as BPs low on propofol.
   FEN: NPO for now
   - Consider OG tube following bronch
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   .
   ACCESS: PIV's
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   .
   DISPOSITION: ICU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-2-1**] 10:36 PM
   Arterial Line - [**2158-2-2**] 12:10 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:  HOB>45
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2158-02-03 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
 EKG - At [**2158-2-2**] 09:30 AM
   IP bronched: lots of pus and external compression of airways
   Rad Onc: Will start radiation tomorrow [**2-3**]
   Heme Onc: staging studies eventually (head MRI or CT, bone scan)
   500cc bolus for low urine output, responded well.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2158-2-1**] 10:34 PM
   Vancomycin - [**2158-2-2**] 08:00 PM
   Ciprofloxacin - [**2158-2-2**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-3**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-3**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 87 (78 - 96) bpm
   BP: 104/50(71) {90/44(60) - 137/71(99)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,047 mL
                                                                    609 mL
   PO:
             TF:
             223 mL
   IVF:
                                                                  2,987 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,693 mL
                                                                    290 mL
   Urine:
                                                                  1,693 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.36/54/99.[**Numeric Identifier 508**]/30/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 167
   Physical Examination
   GENERAL: Intubated elderly woman in NAD, sedated.
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA. OP clear.  Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: Loud left lower lobe rhonchi and expiratory wheezes throughout.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   PSYCH: Sedated
   Labs / Radiology
   256 K/uL
   9.6 g/dL
   142 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   29.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2158-2-1**]  08:47 PM
                             [**2158-2-1**]  10:21 PM
                             [**2158-2-2**]  12:49 AM
                             [**2158-2-2**]  02:20 AM
                             [**2158-2-2**]  04:25 AM
                             [**2158-2-2**]  05:05 AM
                             [**2158-2-2**]  10:13 AM
                             [**2158-2-2**]  05:23 PM
                             [**2158-2-2**]  08:01 PM
                             [**2158-2-3**]  04:00 AM
   WBC
   13.6
   11.0
   11.4
   Hct
   31.0
   28.2
   29.5
   Plt
   [**Telephone/Fax (3) 6405**]
   Cr
   0.5
   0.5
   0.6
   TropT
   0.11
   TCO2
   33
   30
   29
   30
   32
   32
   Glucose
   151
   166
   142
   Other labs: PT / PTT / INR:13.0/21.4/1.1, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   .
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs.
   -- Change propofol to fentanyl/versed
   -- Pneumonia will require broad coverage; Vancomycin, Cipro and Zosyn
   given risk of MRSA and gram negatives / pseudomonas given recent
   hospitalizations
   -- Interventional pulmonary and radiation oncology consulted regarding
   possible interventions for obstruction relief
   -- Lung cancer management pending, Heme/ONC consult in AM
   -- COPD exacerbation treatement with:
   - IV Solumedrol
   - Atrovent / Albuterol / Mucomyst
   - Abx as above.
   -- CT Torso s contrast (allergy of hives)
   -- D/w IP re: ? bronch
   .
   #. NSTEMI / ACS: Likely demand ischemia in the setting
   -- Cycle enzymes
   .
   #. SQUAMOUS CELL LUNG CANCER: As above, will need formal evaluation by
   ONC team
   -- Rad onc consult
   -- Heme onc consult
   .
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty
   .
   # Hypertension: Hold home diltiazem as BPs low on propofol.
   FEN: NPO for now
   - Consider OG tube following bronch
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   .
   ACCESS: PIV's
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-3**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-2-1**] 10:36 PM
   Arterial Line - [**2158-2-2**] 12:10 AM
   22 Gauge - [**2158-2-2**] 11:08 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:  HOB>45
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2158-02-04 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
 PICC LINE - START [**2158-2-3**] 10:10 AM
 RADIATION THERAPY - At [**2158-2-3**] 01:30 PM
   XRT mapping at [**Hospital Ward Name **] 5
   - Pt went for mapping and later received XRT
   - Hem/Onc: will f/u w/ MRI head and bone scan
   - UOP [**Month (only) **] 30cc/h in afternoon - gave 500ml bolus
   - Pt's BS 280s added ISS while on solumedrol
   - Pt's ABG at 3am 7.31/65/142/34 - went up on Rate 18, decr fio2 40
   - next AGB at 5am 7.32/63/75 - h/o COPD->CO2 retainer, may lighten
   sedation
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2158-2-1**] 10:34 PM
   Vancomycin - [**2158-2-3**] 07:46 PM
   Ciprofloxacin - [**2158-2-3**] 10:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-4**] 02:06 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-4**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-4**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 78 (69 - 101) bpm
   BP: 117/58(82) {108/52(75) - 146/75(106)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,945 mL
                                                                    549 mL
   PO:
             TF:
                                                                    636 mL
                                                                    255 mL
   IVF:
                                                                  2,129 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    350 mL
   Urine:
                                                                  1,000 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                    199 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.32/63/78.[**Numeric Identifier 181**]/31/3
   Ve: 7.4 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   9.6 g/dL
   156 mg/dL
   0.6 mg/dL
   31 mEq/L
   5.0 mEq/L
   24 mg/dL
   105 mEq/L
   142 mEq/L
   29.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2158-2-2**]  02:20 AM
                             [**2158-2-2**]  04:25 AM
                             [**2158-2-2**]  05:05 AM
                             [**2158-2-2**]  10:13 AM
                             [**2158-2-2**]  05:23 PM
                             [**2158-2-2**]  08:01 PM
                             [**2158-2-3**]  04:00 AM
                             [**2158-2-4**]  02:54 AM
                             [**2158-2-4**]  03:28 AM
                             [**2158-2-4**]  04:26 AM
   WBC
   11.0
   11.4
   10.6
   Hct
   28.2
   29.5
   29.4
   Plt
   232
   256
   241
   Cr
   0.5
   0.6
   0.6
   TropT
   0.11
   TCO2
   29
   30
   32
   32
   34
   34
   Glucose
   166
   142
   156
   Other labs: PT / PTT / INR:13.0/21.4/1.1, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Imaging: [**Known lastname **],[**Known firstname **] [**Medical Record Number 6422**] F  82  [**2075-9-11**]
   Radiology Report CT ABDOMEN W/O CONTRAST Study Date of [**2158-2-2**] 1:07 PM
   [**Last Name (LF) **],[**First Name3 (LF) **] [**Doctor First Name **] MED [**Hospital Unit Name 1**] [**2158-2-2**] 1:07 PM
   CT CHEST W/O CONTRAST; CT ABDOMEN W/O CONTRAST; CT PELVIS W/O
   CONTRAST   Clip # [**Clip Number (Radiology) 6423**]
   Reason: Evaluate for mass
   -----------------------------------------------------------------------
   [**Hospital 6424**]
   [**Hospital 6425**] MEDICAL CONDITION:
      82 year old woman with SCC lung
   REASON FOR THIS EXAMINATION:
      Evaluate for mass
   CONTRAINDICATIONS FOR IV CONTRAST:
      None.
   -----------------------------------------------------------------------
   ---------
   Final Report
   INDICATION: Patient with squamous cell carcinoma of the lung. Evaluate.
   COMPARISON: CT from [**Hospital3 **] of [**2157-12-6**].
   TECHNIQUE: Contiguous axial images through the torso were obtained
   without IV
   contrast. IV contrast was not administered due to patient allergy.
   Coronal
   and sagittal reformatted images were generated.
   CT OF THE CHEST WITHOUT CONTRAST: The thyroid is heterogeneous in
   density,
   with a calcification of the right lobe (2:2). The patient is intubated,
   with
   the endotracheal tube tip a couple of cm above the carina. A
   nasogastric tube
   is in place, with tip in the body of the stomach.
   Findings related to the patient's lung cancer appear worsened compared
   to
   [**12-6**]. The left infrahilar mass is difficult to precisely
   measure
   given the degree of surrounding opacity on the current study, and the
   non-contrast technique. The lesion which completely obstructs the
   lingular
   bronchus could measure as much as 5.6 x 5.2 cm in greatest axial
   dimensions,
   significantly increased. However, it is unclear how much of the
   opacification
   is due to adjacent pneumonia. The left lower lobe bronchus is narrowed
   due to
   mass effect from the infrahilar lesion, but it is not obstructed, as
   air
   bronchograms are seen throughout the collapsed left lower lobe. The
   left
   lower lobe collapse is new from the prior exam. A spiculated nodular
   opacity
   of the left upper lobe is essentially new from the prior study,
   measuring 1.5
   x 1.1 cm (2:22). A peripheral nodule of the left upper lobe is
   unchanged,
   measuring 3 mm (2:18). A patchy opacity in the posterior aspect of the
   right
   upper lobe is new (2:29). Patchy posterior opacities of the posterior
   right
   lower lobe are new as well, more consolidated in appearance at the
   right base
   (2:45).
   A small left pleural effusion is simple in attenuation, mildly
   increased in
   volume from [**12-6**]. There may be trace right pleural fluid. A
   simple-attenuation pericardial effusion may be mildly increased since
   [**Month (only) 25**].
   There is CT evidence of anemia. The heart appears mildly enlarged, with
   coronary artery calcifications involving the LAD, left circumflex and
   right
   coronary arteries.
   There is no axillary lymphadenopathy. Clips are noted in the right
   axilla,
   and the patient is post right mastectomy. A precarinal node is mildly
   increased in size, measuring 8 mm in the short axis (2:22), previously
   5 mm.
   A pretracheal node measures 5 mm today (2:20), previously 3 mm.
   There is a coarse calcification of the left breast (2:33).
   CT OF THE ABDOMEN WITHOUT IV CONTRAST: Assessment of the solid organs
   is
   limited in the absence of IV contrast. In the anterior liver, there is
   vague
   hypodensity seen on liver windows (2:57), where an underlying lesion
   cannot be
   entirely excluded. There is no intrahepatic biliary duct dilation. The
   gallbladder appears surgically absent. The spleen is normal in size. A
   splenule is noted (2:51). The pancreas is unremarkable, as is the right
   adrenal. There is bulkiness of the left adrenal which is unchanged,
   without a
   clear focal lesion demonstrated. There is no hydronephrosis of the
   kidneys.
   A calcified lesion of the interpolar left kidney is unchanged, not
   fully
   characterized (2:65). There is no free air or free fluid in the
   abdomen. No
   mesenteric or retroperitoneal nodes meet CT size criteria for
   pathologic
   enlargement. There is a small fat-containing umbilical hernia (2:77).
   The
   abdominal aorta is normal in caliber, though there are moderately
   severe
   atherosclerotic calcifications.
   CT OF THE PELVIS WITHOUT CONTRAST: There is a Foley catheter within the
   bladder. The uterus, adnexa, and rectum are unremarkable. There is
   sigmoid
   diverticulosis, without evidence of diverticulitis. There are small
   amounts
   of free pelvic fluid (2:100). No inguinal or pelvic nodes meet CT size
   criteria for pathologic enlargement.
   BONE WINDOWS: There are no suspicious osteolytic or sclerotic lesions.
   The
   patient is post vertebroplasty of the T8 vertebral body. There is a
   compression fracture of the T12 vertebral body.
   IMPRESSION:
   1. There is evidence of increase in size in the left infrahilar mass
   which
   occludes the lingular bronchus, though it is difficult to tell the
   precise
   borders of the lesion and size of the lesion given the non-contrast
   technique.
   There is also new collapse of the left lower lobe, though the airway
   remains
   narrowed but patent, as evidenced by air bronchograms throughout the
   left
   lower lobe. Patchy nodular opacities elsewhere within the left upper
   lobe and
   within the right lung are also new, possibly infectious or disease
   related.
   2. Slight increase in left pleural effusion, new trace right pleural
   effusion
   and mild increase in pericardial effusion. Trace free pelvic fluid.
   3. Bulkiness of the left adrenal, unchanged, without a focal lesion
   noted.
   4. Hypodense area within the anterior liver as described, not fully
   characterized using non-contrast CT technique. If indicated, this could
   be
   further evaluated with ultrasound for the presence of a focal lesion.
   5. Calcified lesion of the interpolar left kidney, not fully
   characterized.
   6. Sigmoid diverticulosis, without evidence of diverticulitis.
   7. Compression fractures of T8 (treated with vertebroplasty) and T12.
   8. Mild interval increase in size of subcentimeter mediastinal lymph
   nodes,
   nonspecific.
   Microbiology: [**2158-2-2**] 4:16 pm BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2158-2-2**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   [**2158-2-1**] 3:55 pm MRSA SCREEN      NASAL SWAB.
      MRSA SCREEN (Final [**2158-2-3**]):
         POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS.
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. Pt bronched and IP and no stents were
   required. Gram stain negative so far.
   - Will check ABG and if better will decrease PEEP
   - Pneumonia will require broad coverage; Vancomycin, Cipro and Zosyn
   day #2, given risk of MRSA and gram negatives / pseudomonas given
   recent hospitalizations
   - continue IV Solumedrol
   - Atrovent / Albuterol / Mucomyst
    #. SQUAMOUS CELL LUNG CANCER:
   - Pt will get MRI head to help staging
   - Pt will begin XRT today
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Hold home diltiazem as BPs low on propofol.
   FEN: NPO for now
   - Consider OG tube following bronch
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-04 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2158-2-3**] 10:10 AM
 RADIATION THERAPY - At [**2158-2-3**] 01:30 PM
   XRT mapping at [**Hospital Ward Name **] 5
   bronch - mass in left airway, unable to stent
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Azithromycin - [**2158-2-1**] 10:34 PM
   Ciprofloxacin - [**2158-2-3**] 10:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-4**] 02:06 AM
   Vancomycin - [**2158-2-4**] 09:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-4**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-4**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 68 (67 - 101) bpm
   BP: 123/62(85) {108/52(75) - 146/75(106)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,945 mL
                                                                    816 mL
   PO:
             TF:
                                                                    636 mL
                                                                    255 mL
   IVF:
                                                                  2,129 mL
                                                                    531 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    350 mL
   Urine:
                                                                  1,000 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 27 cmH2O
   SpO2: 92%
   ABG: 7.47/44/59/31/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 98
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   241 K/uL
   156 mg/dL
   0.6 mg/dL
   31 mEq/L
   5.0 mEq/L
   24 mg/dL
   105 mEq/L
   142 mEq/L
   29.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2158-2-2**]  05:05 AM
                             [**2158-2-2**]  10:13 AM
                             [**2158-2-2**]  05:23 PM
                             [**2158-2-2**]  08:01 PM
                             [**2158-2-3**]  04:00 AM
                             [**2158-2-4**]  02:54 AM
                             [**2158-2-4**]  03:28 AM
                             [**2158-2-4**]  04:26 AM
                             [**2158-2-4**]  07:56 AM
                             [**2158-2-4**]  09:57 AM
   WBC
   11.4
   10.6
   Hct
   29.5
   29.4
   Plt
   256
   241
   Cr
   0.6
   0.6
   TropT
   0.11
   TCO2
   30
   32
   32
   34
   34
   32
   33
   Glucose
   142
   156
   Other labs: PT / PTT / INR:13.0/21.4/1.1, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE - related to emphysema, pna, tumor, continue abx
   and XRT, continue support on vent, wean steroids
   .
   lung cancer - continue XRT for now, if cannot extubate - will need to
   address CMO with family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-05 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-4**] 08:00 AM
   to radiation therapy. time 30 min. stable bp required bolus of midaz to
   improve sedation
   - Cancelled MRI and bone scan for now as pt too unstable
   - Increased FiO2
   - Family meeting, family aware of the gravity of the situation
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-4**] 08:00 PM
   Ciprofloxacin - [**2158-2-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-5**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-5**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 94 (65 - 128) bpm
   BP: 134/60(90) {109/52(73) - 166/89(120)} mmHg
   RR: 19 (16 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,713 mL
                                                                    629 mL
   PO:
             TF:
                                                                    680 mL
                                                                    264 mL
   IVF:
                                                                  1,643 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    525 mL
   Urine:
                                                                  1,140 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,573 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/60/113/32/8
   Ve: 7.4 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   10.1 g/dL
   153 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.8 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   30.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2158-2-2**]  08:01 PM
                             [**2158-2-3**]  04:00 AM
                             [**2158-2-4**]  02:54 AM
                             [**2158-2-4**]  03:28 AM
                             [**2158-2-4**]  04:26 AM
                             [**2158-2-4**]  07:56 AM
                             [**2158-2-4**]  09:57 AM
                             [**2158-2-4**]  11:44 AM
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
   WBC
   11.4
   10.6
   13.9
   Hct
   29.5
   29.4
   30.2
   Plt
   [**Telephone/Fax (3) 6439**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   32
   34
   34
   32
   33
   33
   37
   Glucose
   142
   156
   153
   Other labs: PT / PTT / INR:13.0/21.4/1.1, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - prn ABG to assess oxygenation/ventilation; decrease FiO2 to 50% today
   - Change cipro, zosyn to ctx, levoquin and flagyl for presumed pna
   - Change IV solumedrol to po prednisone, 60mg daily. Continue to taper.
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Hold on staging studies as pt unstable, unclear whether staging scans
   will be relevant as pt may not be able to be weaned off vent given poor
   lung status [**12-19**] COPD
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Hold home diltiazem as BPs low on propofol.
   FEN: Tube feeds
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-5**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-05 10:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-4**] 08:00 AM
   to radiation therapy. time 30 min. stable bp required bolus of midaz to
   improve sedation
   family meeting yesterday, continuing current management for now
   stable on vent
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-4**] 08:00 PM
   Ciprofloxacin - [**2158-2-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-5**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-5**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 116 (65 - 128) bpm
   BP: 147/73(103) {109/52(73) - 166/89(120)} mmHg
   RR: 21 (16 - 45) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,713 mL
                                                                    828 mL
   PO:
             TF:
                                                                    680 mL
                                                                    392 mL
   IVF:
                                                                  1,643 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    650 mL
   Urine:
                                                                  1,140 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,573 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 35 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/60/113/32/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   260 K/uL
   153 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.8 mEq/L
   27 mg/dL
   102 mEq/L
   140 mEq/L
   30.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2158-2-2**]  08:01 PM
                             [**2158-2-3**]  04:00 AM
                             [**2158-2-4**]  02:54 AM
                             [**2158-2-4**]  03:28 AM
                             [**2158-2-4**]  04:26 AM
                             [**2158-2-4**]  07:56 AM
                             [**2158-2-4**]  09:57 AM
                             [**2158-2-4**]  11:44 AM
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
   WBC
   11.4
   10.6
   13.9
   Hct
   29.5
   29.4
   30.2
   Plt
   [**Telephone/Fax (3) 6439**]
   Cr
   0.6
   0.6
   0.6
   TCO2
   32
   34
   34
   32
   33
   33
   37
   Glucose
   142
   156
   153
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE - related to emphysema, pna, tumor, continue abx
   and XRT, continue support on vent, wean steroids
   lung cancer - continue XRT for now, if cannot extubate - will need to
   address CMO with family
   DM - SSI
   NSTEMI - likely related to demand/hypoxemia, cont ASA
   HTN - on diltiazem
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-5**] 04:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2158-02-06 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
   - Called [**Hospital 608**] Hosp micro. BC NGTD (final), Sputum cx also NGTD,
   minimal [**Female First Name (un) **], mixed resp flora.
   - switched abx to CTX, Levoflox, Flagyl
   - Tapered steroids to Prednisone
   - Decreased ASA to 81mg given bruising.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-2-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-5**] 02:00 AM
   Vancomycin - [**2158-2-5**] 08:00 AM
   Ceftriaxone - [**2158-2-5**] 02:01 PM
   Levofloxacin - [**2158-2-5**] 02:03 PM
   Metronidazole - [**2158-2-6**] 01:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-5**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-6**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 88 (74 - 109) bpm
   BP: 110/52(73) {106/51(71) - 155/72(106)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,409 mL
                                                                    673 mL
   PO:
             TF:
                                                                    961 mL
                                                                    292 mL
   IVF:
                                                                  1,178 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    725 mL
   Urine:
                                                                  1,675 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    734 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.39/58/86/36/7
   Ve: 7.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   10.0 g/dL
   147 mg/dL
   0.5 mg/dL
   36 mEq/L
   5.0 mEq/L
   28 mg/dL
   100 mEq/L
   140 mEq/L
   29.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2158-2-4**]  02:54 AM
                             [**2158-2-4**]  03:28 AM
                             [**2158-2-4**]  04:26 AM
                             [**2158-2-4**]  07:56 AM
                             [**2158-2-4**]  09:57 AM
                             [**2158-2-4**]  11:44 AM
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
   WBC
   10.6
   13.9
   14.7
   Hct
   29.4
   30.2
   29.4
   Plt
   241
   260
   245
   Cr
   0.6
   0.6
   0.5
   TCO2
   34
   34
   32
   33
   33
   37
   36
   Glucose
   156
   153
   147
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 RESPIRATORY FAILURE, CHRONIC
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - prn ABG to assess oxygenation/ventilation; decrease FiO2 to 50% today
   - Changed cipro, zosyn to ctx, levoquin and flagyl for presumed pna
   - Changed IV solumedrol to po prednisone, 60mg daily. Continue to taper
   (60,60, 40, 40, 20, 20 and 10).
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Hold on staging studies as pt unstable, unclear whether staging scans
   will be relevant as pt may not be able to be weaned off vent given poor
   lung status [**12-19**] COPD
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
    #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Hold home diltiazem as BPs low on propofol.
   FEN: Tube feed
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-5**] 11:19 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-07 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   24 Hour Events:
   Had MRI head and bone scan for staging
 unread
   Allergies:
   Iodine; Iodine Containing - Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2158-2-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-2-5**] 02:00 AM
   Vancomycin - [**2158-2-5**] 08:00 AM
   Ceftriaxone - [**2158-2-6**] 08:04 AM
   Levofloxacin - [**2158-2-6**] 09:29 AM
   Metronidazole - [**2158-2-7**] 01:07 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-6**] 08:10 AM
   Furosemide (Lasix) - [**2158-2-6**] 01:00 PM
   Midazolam (Versed) - [**2158-2-6**] 04:15 PM
   Fentanyl - [**2158-2-6**] 09:53 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-7**] 12:05 AM
   Other medications: see below
   Flowsheet Data as of  [**2158-2-7**] 06:52 AM
   Vital signs
   Fluid
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 81 (75 - 126) bpm
   BP: 108/52(72) {104/52(72) - 184/93(130)} mmHg
   RR: 18 (18 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                   Total In:
                                                                  1,961 mL
                                                                    610 mL
   PO:
                   TF:
                                                                    727 mL
                                                                    275 mL
   IVF:
                                                                    935 mL
                                                                    215 mL
   Total out:
                                                                  3,130 mL
                                                                    515 mL
   Urine:
                                                                  3,130 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,169 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/59/107/39/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   10.1 g/dL
   172 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.0 mEq/L
   28 mg/dL
   101 mEq/L
   144 mEq/L
   30.1 %
   14.2 K/uL
        [image002.jpg]
                             [**2158-2-4**]  07:56 AM
                             [**2158-2-4**]  09:57 AM
                             [**2158-2-4**]  11:44 AM
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
                             [**2158-2-6**]  12:42 PM
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
   WBC
   13.9
   14.7
   14.2
   Hct
   30.2
   29.4
   30.1
   Plt
   [**Telephone/Fax (3) 6483**]
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   32
   33
   33
   37
   36
   37
   Glucose
   153
   147
   87
   172
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna
   - Continue prednisone taper (60, 60, 40, 40, 20, 20 and 10).
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, will f/u results
   - lighten sedation to allow Ms [**Known lastname 6363**] to determine her plan/code
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
    #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt
   FEN: Tube feeds @ 40
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   Meds:
   1. Albuterol Inhaler 4 PUFF IH Q6H
   2. Aspirin 81 mg PO DAILY
   3. Insulin SC  (per Insulin Flowsheet)
   4. Bisacodyl 10 mg PO/PR DAILY:PRN
   5. Ipratropium Bromide MDI 2 PUFF IH Q6H
   6. CeftriaXONE 1 g IV Q24H
   7. Levofloxacin 750 mg IV Q48
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   9. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   10. Diltiazem 30 mg PO QID
   11. Midazolam 0.5-2 mg/hr IV DRIP INFUSION
   12. Docusate Sodium (Liquid) 100 mg PO BID
   13. Pantoprazole 40 mg IV Q24H
   14. Fentanyl Citrate 25-100 mcg/hr IV DRIP INFUSION
   15. PredniSONE 40 mg PO DAILY
   16. Heparin 5000 UNIT SC TID
   17. Senna 1 TAB PO BID:PRN

2158-02-08 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-7**] 01:40 PM
   Allergies:
   Iodine; Iodine Containing - Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-5**] 08:00 AM
   Levofloxacin - [**2158-2-6**] 09:29 AM
   Ceftriaxone - [**2158-2-7**] 08:07 AM
   Metronidazole - [**2158-2-8**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-8**] 01:22 AM
   Midazolam (Versed) - [**2158-2-8**] 04:52 AM
   Fentanyl - [**2158-2-8**] 04:52 AM
   Hydralazine - [**2158-2-8**] 06:49 AM
   Flowsheet Data as of  [**2158-2-8**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 94 (86 - 115) bpm
   BP: 117/61(82) {109/55(75) - 175/88(125)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,943 mL
                                                                    503 mL
   PO:
             TF:
                                                                    964 mL
                                                                    163 mL
   IVF:
                                                                    739 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    565 mL
   Urine:
                                                                  1,865 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 390 (390 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/60/80.[**Numeric Identifier 176**]/39/12
   Ve: 6.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   10.6 g/dL
   139 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   27 mg/dL
   96 mEq/L
   139 mEq/L
   31.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
                             [**2158-2-6**]  12:42 PM
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
   WBC
   13.9
   14.7
   14.2
   14.9
   Hct
   30.2
   29.4
   30.1
   31.3
   Plt
   [**Telephone/Fax (3) 6523**]36
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   36
   37
   41
   41
   Glucose
   153
   147
   87
   172
   139
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna
   - Continue prednisone taper (60, 60, 40, 40, 20, 20 and 10).
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, will f/u results
   - lighten sedation to allow Ms [**Known lastname 6363**] to determine her plan/code
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
    #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt
   FEN: Tube feeds @ 40
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
                        Active Medications [**Known lastname **],[**Known firstname **]
   1. IV access: PICC, heparin dependent Location: Left, Date inserted:
   [**2158-2-3**] Order date: [**2-3**] @ 0942
   14. IV access request: PICC Place Urgency: Routine Order date: [**2-2**] @
   0912
   2. Albuterol Inhaler 4 PUFF IH Q6H  Order date: [**2-2**] @ 1337
   15. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**2-1**] @ 1535
   3. Aspirin 81 mg PO DAILY  Order date: [**2-5**] @ 1002
   16. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**2-3**] @ 2100
   4. Bisacodyl 10 mg PO/PR DAILY:PRN  Order date: [**2-1**] @ 1543
   17. Ipratropium Bromide MDI 2 PUFF IH Q6H  Order date: [**2-2**] @ 1337
   5. CeftriaXONE 1 g IV Q24H
   Day 1 = [**2-5**]  Order date: [**2-5**] @ 1001
   18. Levofloxacin 750 mg IV Q48
   Day 1 = [**2-5**]  Order date: [**2-6**] @ 1132
   6. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**2-1**] @
   2212
   19. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H
   Day 1 = [**2-5**]  Order date: [**2-5**] @ 1001
   7. Diltiazem 30 mg PO QID
   Please hold for SBP less than 90, HR less than 50  Order date: [**2-1**] @
   1543
   20. Metoprolol Tartrate 5 mg IV ONCE MR1 Duration: 1 Doses Order date:
   [**2-8**] @ 0715
   8. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**2-1**] @ 1543
   21. Midazolam 0.5-2 mg/hr IV DRIP INFUSION
   Patient must have adequate airway support prior to administration of
   dose.  Order date: [**2-2**] @ 0912
   9. Fentanyl Citrate 25-100 mcg/hr IV DRIP INFUSION  Order date: [**2-2**] @
   0912
   22. Pantoprazole 40 mg IV Q24H  Order date: [**2-2**] @ 0924
   10. Heparin 5000 UNIT SC TID  Order date: [**2-1**] @ 1831
   23. Pneumococcal Vac Polyvalent 0.5 ml IM ASDIR  Order date: [**2-1**] @
   1535
   11. Heparin Flush (10 units/ml) 2 mL IV PRN line flush
   PICC, heparin dependent: Flush with 10mL Normal Saline followed by
   Heparin as above daily and PRN per lumen.  Order date: [**2-3**] @ 0942
   24. PredniSONE 40 mg PO DAILY Start: In am Order date: [**2-6**] @ 1312
   12. HydrALAzine 5 mg IV ONCE Duration: 1 Doses Order date: [**2-8**] @ 0633
   25. Senna 1 TAB PO BID:PRN  Order date: [**2-1**] @ 1543
   13. HydrALAzine 5 mg IV ONCE Duration: 1 Doses Order date: [**2-8**] @ 0643

2158-02-08 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-7**] 01:40 PM: Received fourth dose
   yesterday uneventfully.
   Increased tachycardia, hypertensive overnight with ectopy and brief run
   of VT without hemodynamic compromise.
   CXR unchanged
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-7**] 08:07 AM
   Metronidazole - [**2158-2-8**] 02:00 AM
   Levofloxacin - [**2158-2-8**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2158-2-8**] 04:52 AM
   Hydralazine - [**2158-2-8**] 06:49 AM
   Fentanyl - [**2158-2-8**] 07:10 AM
   Metoprolol - [**2158-2-8**] 07:20 AM
   Pantoprazole (Protonix) - [**2158-2-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-8**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 104 (86 - 149) bpm
   BP: 121/64(84) {109/55(75) - 179/90(125)} mmHg
   RR: 21 (12 - 40) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,943 mL
                                                                    782 mL
   PO:
             TF:
                                                                    964 mL
                                                                    255 mL
   IVF:
                                                                    739 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    840 mL
   Urine:
                                                                  1,865 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.43/60/80.[**Numeric Identifier 176**]/39/12
   Ve: 13.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : scattered, Diminished:
   throughout, prolonge expiratory phase)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes to voice
   Labs / Radiology
   10.6 g/dL
   236 K/uL
   139 mg/dL
   0.5 mg/dL
   39 mEq/L
   5.3 mEq/L
   27 mg/dL
   96 mEq/L
   139 mEq/L
   31.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2158-2-5**]  04:20 AM
                             [**2158-2-5**]  05:15 AM
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
                             [**2158-2-6**]  12:42 PM
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
   WBC
   13.9
   14.7
   14.2
   14.9
   Hct
   30.2
   29.4
   30.1
   31.3
   Plt
   [**Telephone/Fax (3) 6523**]36
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   36
   37
   41
   41
   Glucose
   153
   147
   87
   172
   139
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:102/6/0.11, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR:  ETT in good position, persistent collapse of L lower
   lobe, no CHF or PTX
   ECG: ECG with sinus tachycardia without acute STTW changes
   Assessment and Plan
 AGITATION OVERNIGHT without clear etiology.  Didn't seem to have
   mucus plugging, CXR unchanged, no CHF or new infiltrate.  At risk for
   PE ableit no significant increased Fi02 requirments on the ventilator.
   Possible component of anxiety.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]) ON CHRONIC with underlying
   COPD exacerbation, recently diagnosed SCCA with obstruction of lingula
   and LLL, postobstructive PNA.  Tapering prednisone.
 CANCER (MALIGNANT NEOPLASM), LUNG: Getting palliative XRT for lingula
   and LLL obstruction.
 ANEMIA:  Stable hct.  GAS.
 LEUKOCYTOSIS: Likely secondary to steroids and underlying
   postobstructive PNA on abx.  Will check surveillance culutres.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-7**] 12:37 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-02-09 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-8**] 02:00 PM
 PAN CULTURE - At [**2158-2-8**] 02:53 PM
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-8**] 08:00 AM
   Ceftriaxone - [**2158-2-8**] 09:00 AM
   Metronidazole - [**2158-2-9**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-8**] 08:00 AM
   Midazolam (Versed) - [**2158-2-8**] 04:55 PM
   Fentanyl - [**2158-2-8**] 04:55 PM
   Heparin Sodium (Prophylaxis) - [**2158-2-8**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-9**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 102 (99 - 121) bpm
   BP: 112/60(79) {91/47(62) - 170/85(118)} mmHg
   RR: 18 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,919 mL
                                                                    706 mL
   PO:
             TF:
                                                                    830 mL
                                                                    311 mL
   IVF:
                                                                    939 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    145 mL
   Urine:
                                                                  1,830 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.44/55/87.[**Numeric Identifier 181**]/38/10
   Ve: 4.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   9.9 g/dL
   129 mg/dL
   0.5 mg/dL
   38 mEq/L
   5.0 mEq/L
   30 mg/dL
   97 mEq/L
   140 mEq/L
   30.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
                             [**2158-2-6**]  12:42 PM
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
                             [**2158-2-8**]  10:25 AM
                             [**2158-2-9**]  03:55 AM
   WBC
   14.7
   14.2
   14.9
   13.0
   Hct
   29.4
   30.1
   31.3
   30.0
   Plt
   245
   234
   236
   233
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   0.16
   TCO2
   36
   37
   41
   41
   39
   Glucose
   147
   87
   172
   139
   129
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna
   - Continue prednisone taper (60, 60, 40, 40, 20, 20 and 10).
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, will f/u results
   - lighten sedation to allow Ms [**Known lastname 6363**] to determine her plan/code
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt
   FEN: Tube feeds @ 40
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: full
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-9**] 05:21 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2158-02-09 11:31:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2158-2-8**] 02:00 PM
 PAN CULTURE - At [**2158-2-8**] 02:53 PM
   Sedation increased overnight for increased agitation on the ventilator
   without clear etiology
   Patient unable to provide history: Sedated
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-8**] 08:00 AM
   Metronidazole - [**2158-2-9**] 02:00 AM
   Ceftriaxone - [**2158-2-9**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2158-2-8**] 04:55 PM
   Fentanyl - [**2158-2-8**] 04:55 PM
   Pantoprazole (Protonix) - [**2158-2-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-9**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 98 (94 - 120) bpm
   BP: 105/53(71) {91/47(62) - 152/77(105)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,919 mL
                                                                  1,015 mL
   PO:
             TF:
                                                                    830 mL
                                                                    450 mL
   IVF:
                                                                    939 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    225 mL
   Urine:
                                                                  1,830 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     89 mL
                                                                    790 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: ///38/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: especially left base)
   Abdominal: Soft, Bowel sounds present, Distended, occ. bowel sounds
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   233 K/uL
   129 mg/dL
   0.5 mg/dL
   38 mEq/L
   5.0 mEq/L
   30 mg/dL
   97 mEq/L
   140 mEq/L
   30.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2158-2-5**]  01:26 PM
                             [**2158-2-6**]  04:22 AM
                             [**2158-2-6**]  12:42 PM
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
                             [**2158-2-8**]  10:25 AM
                             [**2158-2-9**]  03:55 AM
   WBC
   14.7
   14.2
   14.9
   13.0
   Hct
   29.4
   30.1
   31.3
   30.0
   Plt
   245
   234
   236
   233
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   0.16
   TCO2
   36
   37
   41
   41
   39
   Glucose
   147
   87
   172
   139
   129
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG:  Continues palliative XRT.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC: Multifactorial with underlying
   COPD exacerbation, newly diagnosed SCCa of the lung with lingula/LLL
   collapse, postobstructive PNA on flagyl/levoquin/flagyl, prednisone
   taper, bronchodilators. Slightly positive volume status overnight given
   borderline BP with increased sedation.  Will make goal to keep even to
   slightly negative volume status over the next 24 hours.  Hold on
   diuresis, rising bicarb.
 CAD:  Troponin slightly increased at 0.14.  Likely demand ischemia.
   Rate slowed and BP better controlled with increased sedation on the
   ventilator.  Followup ECG.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-9**] 05:21 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2158-02-10 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
   - Pt made DNR after family discussion
   - pt nearly 1L+ by 4pm - given lasix 20 IV x1, still positive by 2am
   given lasix 40 IV x1
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-8**] 08:00 AM
   Ceftriaxone - [**2158-2-9**] 08:00 AM
   Metronidazole - [**2158-2-10**] 01:50 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-9**] 11:50 PM
   Furosemide (Lasix) - [**2158-2-10**] 02:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 105 (92 - 105) bpm
   BP: 140/73(99) {104/53(70) - 166/83(118)} mmHg
   RR: 25 (18 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                    566 mL
   PO:
             TF:
                                                                    962 mL
                                                                    291 mL
   IVF:
                                                                    977 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    130 mL
   Urine:
                                                                    760 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.43/58/77/34/11
   Ve: 8.7 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   10.9 g/dL
   195 mg/dL
   1.3 mg/dL
   34 mEq/L
   5.4 mEq/L
   46 mg/dL
   96 mEq/L
   139 mEq/L
   32.2 %
   27.4 K/uL
        [image002.jpg]
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
                             [**2158-2-8**]  10:25 AM
                             [**2158-2-9**]  03:55 AM
                             [**2158-2-9**]  03:31 PM
                             [**2158-2-9**]  08:26 PM
                             [**2158-2-10**]  04:07 AM
   WBC
   14.2
   14.9
   13.0
   27.4
   Hct
   30.1
   31.3
   30.0
   32.2
   Plt
   [**Telephone/Fax (3) 6568**]68
   Cr
   0.5
   0.5
   0.5
   0.5
   0.7
   1.3
   TropT
   0.16
   TCO2
   41
   41
   39
   40
   Glucose
   87
   172
   139
   129
   228
   195
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Microbiology: [**2158-2-9**] 4:08 am
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Pending):
   Assessment and Plan
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as cx neg.
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna
   - Continue prednisone taper (60, 60, 40, 40, 20, 20 and 10).
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
   # ARF: Unclear what caused sudden rise in Cr, may be related to 60mg iv
   lasix pt received yesterday.
   - Flush foley
   - IVF challenge for poor u/o
   - hold lasix today
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, ? of brain met v vascular event
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt
   FEN: Tube feeds @ 40
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Tynelol
   ACCESS: PIV's, PICC
   CODE STATUS: DNR
   EMERGENCY CONTACT: [**First Name4 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**] [**Last Name (NamePattern1) 5274**]
   ([**Telephone/Fax (1) 6369**].
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-10**] 12:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-10 11:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient made DNR
   No response to diuresis overnight
   Poor urine output
   Fentanyl increased to 125/hour for agitation
                   Patient unable to provide history: Sedated, ventilated
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2158-2-10**] 01:50 AM
   Levofloxacin - [**2158-2-10**] 08:00 AM
   Ceftriaxone - [**2158-2-10**] 10:31 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2158-2-10**] 02:01 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-10**] 08:04 AM
   Midazolam (Versed) - [**2158-2-10**] 10:00 AM
   Fentanyl - [**2158-2-10**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-10**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 132 (92 - 132) bpm
   BP: 136/75(98) {123/63(84) - 166/83(118)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                  1,993 mL
   PO:
             TF:
                                                                    962 mL
                                                                    462 mL
   IVF:
                                                                    977 mL
                                                                  1,531 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                    145 mL
   Urine:
                                                                    760 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                  1,848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.43/58/77/34/11
   Ve: 8.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout,
   Rhonchorous: scattered)
   Abdominal: Distended, no bowel sounds, patient more
   tachycardic/hypertensive during palpation of abdomen
   Extremities: Bilateral trace pedal edema
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   268 K/uL
   195 mg/dL
   1.3 mg/dL
   34 mEq/L
   5.4 mEq/L
   46 mg/dL
   96 mEq/L
   139 mEq/L
   32.2 %
   27.4 K/uL
        [image002.jpg]
                             [**2158-2-6**]  02:39 PM
                             [**2158-2-7**]  05:03 AM
                             [**2158-2-7**]  07:40 PM
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
                             [**2158-2-8**]  10:25 AM
                             [**2158-2-9**]  03:55 AM
                             [**2158-2-9**]  03:31 PM
                             [**2158-2-9**]  08:26 PM
                             [**2158-2-10**]  04:07 AM
   WBC
   14.2
   14.9
   13.0
   27.4
   Hct
   30.1
   31.3
   30.0
   32.2
   Plt
   [**Telephone/Fax (3) 6568**]68
   Cr
   0.5
   0.5
   0.5
   0.5
   0.7
   1.3
   TropT
   0.16
   TCO2
   41
   41
   39
   40
   Glucose
   87
   172
   139
   129
   228
   195
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:93.2 %, Lymph:4.7 %, Mono:1.9 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Microbiology: C. diff negative x 1
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG:  Palliative XRT.  Poor prognosis.
   Family aware that we don't feel she will come off the vent.  Family to
   meet with team to further discuss goals of care.
 RESPIRATORY FAILURE,ACUTE ON  CHRONIC secondary to severe underlying
   COPD, SCCa with LLL/lingula collapse receiving XRT, and postobstrucive
   PNA.  Continues CTX/levoquin/flagyl, MDIs, prednisone taper.
 ACUTE RENAL FAILURE:  Cr doubled overnight, now nearly anuric.  Will
   try to fluid challenge.
 ABDOMINAL DISTENTION:  [**Month (only) 51**] be ilieus on narcotics albeit more
   distended this mroning. Check lactate. CXR to evaluate in part for free
   air.  When more stable will consider abdominal CT.  Stop tube feeds,
   NGT to suction.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-10**] 12:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2158-02-11 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   24 Hour Events:
   - Tube feeds stopped for abdominal distension/pain
   - Given Cr suddenly 1.3, asked nurse [**First Name (Titles) **] [**Last Name (Titles) 6587**] foley. On third [**Last Name (Titles) 6587**] 900
   cc urine came out after pt had been anuric for many hours.
   - NGT on suction, repeatedly clogged with thick gastric contents
   ? emesis.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-10**] 08:00 AM
   Ceftriaxone - [**2158-2-10**] 10:31 AM
   Metronidazole - [**2158-2-10**] 11:18 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-10**] 08:40 AM
   Midazolam (Versed) - [**2158-2-10**] 10:00 AM
   Fentanyl - [**2158-2-10**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-10**] 11:18 PM
   Flowsheet Data as of  [**2158-2-11**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 95 (95 - 132) bpm
   BP: 98/52(68) {96/48(66) - 153/80(108)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,147 mL
                                                                    204 mL
   PO:
             TF:
                                                                    753 mL
   IVF:
                                                                  3,214 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    705 mL
   Urine:
                                                                  1,700 mL
                                                                    605 mL
   NG:
                                                                     50 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,397 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.38/55/82/30/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   8.6 g/dL
   108 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.6 mEq/L
   43 mg/dL
   106 mEq/L
   140 mEq/L
   27.6 %
   17.7 K/uL
        [image002.jpg]
                             [**2158-2-8**]  04:28 AM
                             [**2158-2-8**]  05:39 AM
                             [**2158-2-8**]  10:25 AM
                             [**2158-2-9**]  03:55 AM
                             [**2158-2-9**]  03:31 PM
                             [**2158-2-9**]  08:26 PM
                             [**2158-2-10**]  04:07 AM
                             [**2158-2-10**]  12:19 PM
                             [**2158-2-10**]  09:33 PM
                             [**2158-2-11**]  03:13 AM
   WBC
   14.9
   13.0
   27.4
   17.7
   Hct
   31.3
   30.0
   32.2
   27.6
   Plt
   [**Telephone/Fax (3) 6588**]65
   Cr
   0.5
   0.5
   0.7
   1.3
   0.9
   TropT
   0.16
   TCO2
   41
   39
   40
   34
   34
   Glucose
   139
   129
   228
   195
   108
   Other labs: PT / PTT / INR:12.3/27.3/1.0, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.3,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:260 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   CXR with left effusion and atelectasis
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as no GP on cultures
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna  (day 6)
   - finished steroid taper today
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
   - not trying pressure support as pt becomes anxious when not sedated.
   #. Leukocytosis: Peaked at 27.4 yesterday, improved today to 17.7. No
   recent diarrhea and already on flagyl making C diff unlikely. Lines
   appear nonerythematous. Most likely cause is obstructed urine outflow,
   now with positive UA.
   - Continue CTX, levoquin and flagyl. Will hold off on adding Vanco even
   though  MRSA screen positive.
   - f/u culture and sensitivities
   - seems to be improving now that obstruction relieved.
   # Anemia: 6pt Hct drop from yesterday in setting of 2L positive. Will
   recheck.
   # Thrombocytopenia: drop from mid 200s to 160s in setting of 10days of
   heparin. Will recheck and eval other possible med induced
   thrombocytopenia prior to eval for HIT.
   # ARF: Likely due to foley obstruction as improved with flushing.
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, ? of brain met v vascular event
   - discuss goals of care with family as relief of obstruction likely
   will have side effect of radiation pneumonitis preventing extubation.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition: Tube feeds held
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: SQ H
   Stress ulcer: PPI
   Communication:  Comments: [**First Name5 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**]
   [**Last Name (NamePattern1) 5274**] ([**Telephone/Fax (1) 6369**].
   Code status: DNR (do not resuscitate)

2158-02-12 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year old woman with newly diagnosed squamous cell
   lung cancer, presenting with respiratory distress in setting of post
   obstructive pneumonia.
   24 Hour Events:
   - Hct dropped from 32->27->26->25. T&C but did not transfuse. Some mild
   hematuria but no bloody secretions, no sign of active bleeding.
   Considered RP bleed but as Hct stabilizing after initial drop, did not
   order emergent imaging. Type and crossed. Lysis labs neg.
   - UA +, already on abx
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-11**] 09:12 AM
   Metronidazole - [**2158-2-11**] 11:54 PM
   Levofloxacin - [**2158-2-12**] 07:45 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-12**] 07:45 AM
   Pantoprazole (Protonix) - [**2158-2-12**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-12**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 75 (75 - 98) bpm
   BP: 106/51(71) {100/49(67) - 124/63(86)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,126 mL
                                                                    346 mL
   PO:
             TF:
   IVF:
                                                                    996 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    465 mL
   Urine:
                                                                  1,545 mL
                                                                    465 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -519 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   8.7 g/dL
   91 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   35 mg/dL
   108 mEq/L
   145 mEq/L
   27.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2158-2-9**]  03:55 AM
                             [**2158-2-9**]  03:31 PM
                             [**2158-2-9**]  08:26 PM
                             [**2158-2-10**]  04:07 AM
                             [**2158-2-10**]  12:19 PM
                             [**2158-2-10**]  09:33 PM
                             [**2158-2-11**]  03:13 AM
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
   WBC
   13.0
   27.4
   17.7
   16.4
   14.7
   Hct
   30.0
   32.2
   27.6
   26.8
   25.9
   27.1
   Plt
   233
   268
   165
   186
   170
   Cr
   0.5
   0.7
   1.3
   0.9
   0.4
   TCO2
   40
   34
   34
   Glucose
   129
   228
   195
   108
   91
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as no GP on cultures
   - recheck ABG and adjust accordingly
   - Continue ctx, levoquin and flagyl for presumed pna  (day 6)
   - finished steroid taper today
   - Atrovent / Albuterol / Mucomyst
   - F/u am chest xray
   - not trying pressure support as pt becomes anxious when not sedated.
   #. Leukocytosis: Peaked at 27.4 yesterday, improved today to 17.7. No
   recent diarrhea and already on flagyl making C diff unlikely. Lines
   appear nonerythematous. Most likely cause is obstructed urine outflow,
   now with positive UA.
   - Continue CTX, levoquin and flagyl. Will hold off on adding Vanco even
   though  MRSA screen positive.
   - f/u culture and sensitivities
   - seems to be improving now that obstruction relieved.
   # Anemia: 6pt Hct drop from yesterday in setting of 2L positive. Will
   recheck.
   # Thrombocytopenia: drop from mid 200s to 160s in setting of 10days of
   heparin. Will recheck and eval other possible med induced
   thrombocytopenia prior to eval for HIT.
   # ARF: Likely due to foley obstruction as improved with flushing.
    #. SQUAMOUS CELL LUNG CANCER:
   - Cont XRT
   - Staging studies completed, ? of brain met v vascular event
   - discuss goals of care with family as relief of obstruction likely
   will have side effect of radiation pneumonitis preventing extubation.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   - Per Hem/Onc recs pt will get bone scan when appropriate
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: SQ H
   Stress ulcer: PPI
   Communication:  Comments: [**First Name5 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**]
   [**Last Name (NamePattern1) 5274**] ([**Telephone/Fax (1) 6369**].
   Code status: DNR (do not resuscitate)

2158-02-13 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2-12**]
   - Pt tachy to 120s throughout day. Pt recieving 1u PRBC at the time,
   but was still tachy in 100s a couple hrs prior to getting blood. Pt
   denied pain, anxiety, no fevers, normal TSH, and only slightly dry MM -
   but good UOP and +balance nearly 2L - so did not give further fluids at
   the time (and was already getting blood). Came down on its own by 7pm
   - At 11:30pm pt became tachy to 150s - ?SVT. Pt agitated would not
   allow carotid massage, gave metop 5 IV x1, 500ml NS bolus, haldol 1mg
   x1, and pt 's HR returned to 90s.
 STOOL CULTURE - At [**2158-2-12**] 08:37 AM
   for cdiff
 BRONCHOSCOPY - At [**2158-2-12**] 12:40 PM
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-12**] 07:45 AM
   Ceftriaxone - [**2158-2-12**] 09:05 AM
   Metronidazole - [**2158-2-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-12**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-13**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 74 (69 - 99) bpm
   BP: 117/51(76) {102/45(66) - 150/64(98)} mmHg
   RR: 18 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,000 mL
                                                                    286 mL
   PO:
             TF:
   IVF:
                                                                    910 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,092 mL
                                                                    220 mL
   Urine:
                                                                  2,092 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,092 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 390 (390 - 390) mL
   Vt (Spontaneous): 400 (350 - 430) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.41/52/66/34/6
   Ve: 6.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   8.5 g/dL
   101 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   31 mg/dL
   108 mEq/L
   146 mEq/L
   26.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2158-2-10**]  12:19 PM
                             [**2158-2-10**]  09:33 PM
                             [**2158-2-11**]  03:13 AM
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
   WBC
   17.7
   16.4
   14.7
   13.8
   11.9
   Hct
   27.6
   26.8
   25.9
   27.1
   26.9
   26.6
   Plt
   165
   186
   170
   174
   174
   Cr
   0.9
   0.4
   0.4
   0.4
   TCO2
   34
   34
   35
   34
   Glucose
   108
   91
   101
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. Now
   intubated with acceptable ABGs. On [**2-2**] the pt had BAL and no stents
   were required. Gram stain negative so far.  Vancomycin d/c'ed on [**2-5**]
   as no GP on cultures
   - Continue ctx, levoquin and flagyl for presumed pna  (day # 7)
   - titrate sedation if possible
   - change to pressure support if tolerates
   - f/u bronch today
 remove secretions to help getting extuabed
   - cont albuterol/atrovent
   #. SQUAMOUS CELL LUNG CANCER:  continuing to get XRT of brain
   - continue discussing goals of care, pt DNR/DNI
   #. Leukocytosis: Peaked at 27.4 yesterday, improved today to 14.7.
   Likely [**12-19**] pt
s post obstruction pneumonia vs. C.diff
 loose stool
   today, not having diarrhea before, and c.diff negative so far.
   - will recheck c.diff
   - cont abx as above
   # Anemia: hct dropped, no signs of active bleeding. Now stable at 27.
   Guaic negative [**2-12**].
   - will check q12
   - transfuse if actively bleeding or <21
   # Hypervolemia
 will start diuresis
   - lasix 10 IV, goal negative 1L today
   # Thrombocytopenia: intially concerned for HIT, now stable 170s.
   continue to moniter
   # ARF: Likely due to foley obstruction as improved with flushing.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: SQ H
   Stress ulcer: PPI
   Communication:  Comments: [**First Name5 (NamePattern1) 6366**] [**Last Name (NamePattern1) 6367**] ([**Telephone/Fax (1) 6368**] / [**First Name8 (NamePattern2) 59**]
   [**Last Name (NamePattern1) 5274**] ([**Telephone/Fax (1) 6369**].
   Code status: DNR (do not resuscitate)

2158-02-13 10:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Bronchoscopy performed to assess airway patency -- no significant
   improvement noted.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-12**] 07:45 AM
   Metronidazole - [**2158-2-13**] 08:00 AM
   Ceftriaxone - [**2158-2-13**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-13**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 94 (69 - 99) bpm
   BP: 159/71(108) {102/45(66) - 159/75(112)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,000 mL
                                                                    599 mL
   PO:
             TF:
   IVF:
                                                                    910 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  2,092 mL
                                                                    500 mL
   Urine:
                                                                  2,092 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,092 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 390 (390 - 390) mL
   Vt (Spontaneous): 476 (350 - 476) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/52/66/34/6
   Ve: 8 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: Left, No(t) Absent : , Rhonchorous: left),
   Distant breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   Upper extremities with 2+ edema
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   174 K/uL
   101 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.2 mEq/L
   31 mg/dL
   108 mEq/L
   146 mEq/L
   26.6 %
   11.9 K/uL
        [image002.jpg]
                             [**2158-2-10**]  12:19 PM
                             [**2158-2-10**]  09:33 PM
                             [**2158-2-11**]  03:13 AM
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
   WBC
   17.7
   16.4
   14.7
   13.8
   11.9
   Hct
   27.6
   26.8
   25.9
   27.1
   26.9
   26.6
   Plt
   165
   186
   170
   174
   174
   Cr
   0.9
   0.4
   0.4
   0.4
   TCO2
   34
   34
   35
   34
   Glucose
   108
   91
   101
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.
   CANCER (MALIGNANT NEOPLASM), LUNG -- metastatic (CNS); post obstructive
   LLL pneumonia.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.
   FLUIDS
 replete.  Monitor I/O.
   NUTRITIONAL SUPPORT
 TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   Family meeting, including significant other and health care proxy.
   Updated medical condition.  Answered [**Doctor Last Name **] questions.  Limited clinical
   improvement to date, remains dependent on mechaniical ventilation
   (persistent pneumonia, lung malignancy, severe COPD).  Based on
   patients prior and recently stated wishes, plans now to proceed to
   tracheostomy and PEG.  Pt. remains DNR.  All in agreement.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2158-2-13**] 19:55 ------

2158-02-14 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   24 Hour Events:
   -Family meeting done.  Plan is to trach for now.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Levofloxacin - [**2158-2-12**] 07:45 AM
   Ceftriaxone - [**2158-2-12**] 09:05 AM
   Metronidazole - [**2158-2-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Colace
   Diltiazem
   Hep sc
   Chlorhexadine oral rinse
   Pantoprazole
   Alb inh
   Ipratropium MDI
   Asa
   Midazolam
   Fentanyl citrate
   Prednisone 10 daily
   Methylprednisolone 20iv q 12
   Senna prn
   bisacodyl
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-14**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 83 (73 - 107) bpm
   BP: 145/65(98) {133/57(87) - 170/83(120)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,551 mL
                                                                    392 mL
   PO:
             TF:
                                                                    417 mL
                                                                    264 mL
   IVF:
                                                                    864 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    400 mL
   Urine:
                                                                  1,460 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     91 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 452 (452 - 476) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.45/48/99.[**Numeric Identifier 508**]/33/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   8.7 g/dL
   169 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.0 mEq/L
   30 mg/dL
   107 mEq/L
   145 mEq/L
   27.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2158-2-11**]  03:13 AM
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
   WBC
   17.7
   16.4
   14.7
   13.8
   11.9
   10.4
   Hct
   27.6
   26.8
   25.9
   27.1
   26.9
   26.6
   27.0
   Plt
   165
   186
   170
   174
   174
   208
   Cr
   0.9
   0.4
   0.4
   0.4
   0.4
   TCO2
   35
   34
   34
   Glucose
   108
   91
   101
   169
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS: Multifactorial given lung cancer, COPD
   requiring oxygen and development of post obstructive pneumonia. AbG
   this Am improved 7.48/48/100/34 on pressure support.  Broched
   yesterday with copius secretions in mainstem bronchi L>R, endotrachial
   tumor at L subsegmental orfice in upper lung/lingula,  R mainstem
   patent, minimal secretions RLL/RML
   - Continue ctx, levoquin and flagyl for presumed pna  (day # 8)
   - titrate sedation if possible
   - cont albuterol/atrovent
   .
   #. SQUAMOUS CELL LUNG CANCER:  continuing to get XRT of brain
   - continue discussing goals of care, family meeting today to explain
   what it means for pt to be on pressure support.  Discuss trach and
   rehab vs cmo
   #. Leukocytosis: Peaked at 27.4 2 days ago- > 14.7 -> 11.9. Likely [**12-19**]
   pt
s post obstruction pneumonia vs. C.diff neg x1. No more loose stool.
   - no need to recheck c diff given pt wbc trending down
   - cont abx as above
   # Anemia: hct dropped, no signs of active bleeding. Now stable at 27->
   26.6 ([**2-13**]).  Guaic negative [**2-12**].
   - will check daily HCT
   - transfuse if actively bleeding or <21
   # Hypervolemia
 will start diuresis
   - lasix 10 IV, goal negative 1L today
   # Thrombocytopenia: intially concerned for HIT, now stable 170s.
   continue to moniter
   # ARF: Likely due to foley obstruction as improved with flushing.
   Creatinine today 0.4.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-14**] 03:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-14 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2158-2-14**] 08:00 AM
   Ceftriaxone - [**2158-2-14**] 09:00 AM
   Levofloxacin - [**2158-2-14**] 09:42 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-14**] 08:00 AM
   Pantoprazole (Protonix) - [**2158-2-14**] 08:00 AM
   Fentanyl - [**2158-2-14**] 11:00 AM
   Midazolam (Versed) - [**2158-2-14**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-14**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 96 (73 - 107) bpm
   BP: 141/66(97) {129/57(86) - 170/83(120)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,551 mL
                                                                  1,009 mL
   PO:
             TF:
                                                                    417 mL
                                                                    470 mL
   IVF:
                                                                    864 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    645 mL
   Urine:
                                                                  1,460 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     91 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 474 (433 - 474) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   208 K/uL
   169 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.0 mEq/L
   30 mg/dL
   107 mEq/L
   145 mEq/L
   27.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2158-2-11**]  03:13 AM
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
   WBC
   17.7
   16.4
   14.7
   13.8
   11.9
   10.4
   Hct
   27.6
   26.8
   25.9
   27.1
   26.9
   26.6
   27.0
   Plt
   165
   186
   170
   174
   174
   208
   Cr
   0.9
   0.4
   0.4
   0.4
   0.4
   TCO2
   35
   34
   34
   Glucose
   108
   91
   101
   169
   Other labs: PT / PTT / INR:12.7/22.0/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  Plan to move to trach as per famliy
   discussion.
   CANCER (MALIGNANT NEOPLASM), LUNG -- metastatic (CNS); post obstructive
   LLL pneumonia. s/p 5 days of XRT.  Need to determine whether additional
   treatment plans are indicated.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 replete.  Monitor I/O.
   NUTRITIONAL SUPPORT
 TF.  For PEG.
   DISPOSITION -- plan to initiate screening for placement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-14**] 03:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-02-15 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.  Pt has secretions in mainstem bronchi and tumor at L
   subsegmental orrifice
   24 Hour Events:
   -Family member avail for consent is going to be leaving out of town,
   will need to obtain consent for trach
   -rad onc last dose 3/25 and no more radiation needed to lungs
   -plan to d/c aline after trach and peg
   -afternoon I/O -646, gave 10 IV lasix, pt + 240 yesterday
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-14**] 09:00 AM
   Levofloxacin - [**2158-2-14**] 09:42 AM
   Metronidazole - [**2158-2-14**] 03:21 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-14**] 03:22 PM
   Furosemide (Lasix) - [**2158-2-14**] 06:00 PM
   Midazolam (Versed) - [**2158-2-14**] 06:00 PM
   Fentanyl - [**2158-2-14**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-15**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 80 (77 - 100) bpm
   BP: 108/53(72) {108/53(72) - 161/78(115)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,971 mL
                                                                    132 mL
   PO:
             TF:
                                                                    932 mL
   IVF:
                                                                    818 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    340 mL
   Urine:
                                                                  1,630 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (396 - 474) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 5.8 L/min
   Physical Examination
   General: awake, able to squeeze hands, no responding to other commands
   HEENT: mmm
   Cardiac: distant rrr ns1/s2 no m/rg
   Pulm: decreased sounds in L and R lung bases
   Abd: soft, ntnd, +bs
   Extremities: +3 edema in hands and +2 in UE, + LE edema, radial pulses
   +1, DP pulses +2
   Labs / Radiology
   215 K/uL
   8.9 g/dL
   116 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   27 mg/dL
   107 mEq/L
   145 mEq/L
   28.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2158-2-11**]  12:19 PM
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
   WBC
   16.4
   14.7
   13.8
   11.9
   10.4
   10.4
   Hct
   26.8
   25.9
   27.1
   26.9
   26.6
   27.0
   28.2
   Plt
   186
   170
   174
   174
   208
   215
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   35
   34
   34
   Glucose
   91
   101
   169
   116
   Other labs: PT / PTT / INR:13.0/23.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS:  Stable.  Multifactorial given lung cancer,
   COPD requiring oxygen and development of post obstructive pneumonia..
   Broched [**2-12**]  with copius secretions in mainstem bronchi L>R,
   endotrachial tumor at L subsegmental orfice in upper lung/lingula,  R
   mainstem patent, minimal secretions RLL/RML.   Family has elected for
   Trach/PEG.  IP has evaluated the patient and recommends thoracics
   perform the procedure given her anatomy.
   - Continue ctx, levoquin, and flagyl for presumed post obstructive pna
   for full 14 day course.
   - plan trach and peg by Thoracics as early as tomorrow, continue NPO,
   likely remove a line tomorrow
   - titrate sedation if possible
   - cont albuterol/atrovent
   -continue methylprednisolone
   .
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   #. Leukocytosis:  Patient afebrile.  WBC 10.4 today.  Likely [**12-19**] pt
   improving post obstruction pneumonia.
   - cont abx as above
   # Anemia: hct dropped, no signs of active bleeding. Now stable at
   28.2.
   - will check daily HCT
   - transfuse if actively bleeding or <21
   # Hypervolemia
   -goal to keep even
   # Thrombocytopenia: intially concerned for HIT, now stable 215.

 continue to moniter
   # ARF: Likely due to foley obstruction as improved with flushing.
   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-15 12:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains withdrawn, but responds appropriately to voice commands.
   Generalized weakness, but able to initiate squeeze of hands and wiggle
   toes.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-14**] 09:42 AM
   Metronidazole - [**2158-2-15**] 08:02 AM
   Ceftriaxone - [**2158-2-15**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-14**] 03:22 PM
   Midazolam (Versed) - [**2158-2-14**] 06:00 PM
   Furosemide (Lasix) - [**2158-2-14**] 06:00 PM
   Fentanyl - [**2158-2-14**] 11:16 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-15**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 85 (80 - 101) bpm
   BP: 127/58(81) {104/51(69) - 162/85(115)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,971 mL
                                                                    422 mL
   PO:
             TF:
                                                                    932 mL
   IVF:
                                                                    818 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    690 mL
   Urine:
                                                                  1,630 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (352 - 473) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.42/53/104/34/7
   Ve: 6.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal, Withdrawn
   Labs / Radiology
   8.9 g/dL
   215 K/uL
   116 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   27 mg/dL
   107 mEq/L
   145 mEq/L
   28.2 %
   10.4 K/uL
        [image002.jpg]
                             [**2158-2-11**]  08:31 PM
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
   WBC
   14.7
   13.8
   11.9
   10.4
   10.4
   Hct
   25.9
   27.1
   26.9
   26.6
   27.0
   28.2
   Plt
   170
   174
   174
   208
   215
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   35
   34
   34
   36
   Glucose
   91
   101
   169
   116
   Other labs: PT / PTT / INR:13.0/23.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  Plan to move to trach as per famliy
   discussion.
   CANCER (MALIGNANT NEOPLASM), LUNG -- metastatic (CNS); post obstructive
   LLL pneumonia. s/p 5 days of XRT.  Need to determine whether additional
   treatment plans are indicated.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 replete.  Monitor I/O.
   NUTRITIONAL SUPPORT
 TF.  For PEG.
   DISPOSITION -- plan to initiate screening for placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2158-02-16 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.  Pt has secretions in mainstem bronchi and tumor at L
   subsegmental orrifice
   24 Hour Events:
   NPO p MN for trach by thoracic in am
   I/O even
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-14**] 09:42 AM
   Ceftriaxone - [**2158-2-15**] 09:00 AM
   Metronidazole - [**2158-2-15**] 11:27 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-15**] 11:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-16**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 69 (69 - 113) bpm
   BP: 105/43(64) {104/43(64) - 164/85(116)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                    938 mL
                                                                    100 mL
   PO:
             TF:
                                                                    149 mL
   IVF:
                                                                    759 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    450 mL
   Urine:
                                                                  1,425 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -487 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (352 - 402) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 41
   SpO2: 96%
   ABG: 7.42/53/104/31/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: awake, able to squeeze hands, no responding to other commands
   HEENT: mmm
   Cardiac: distant rrr ns1/s2 no m/rg
   Pulm: decreased sounds in L and R lung bases
   Abd: soft, ntnd, +bs
   Extremities: +3 edema in hands and +2 in UE, + LE edema, radial pulses
   +1, DP pulses +2
   Labs / Radiology
   204 K/uL
   9.4 g/dL
   104 mg/dL
   0.3 mg/dL
   31 mEq/L
   5.2 mEq/L
   23 mg/dL
   103 mEq/L
   141 mEq/L
   29.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
   WBC
   14.7
   13.8
   11.9
   10.4
   10.4
   11.1
   Hct
   27.1
   26.9
   26.6
   27.0
   28.2
   29.1
   Plt
   170
   174
   174
   [**Telephone/Fax (3) 6719**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   35
   34
   34
   36
   Glucose
   91
   101
   169
   116
   104
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
 RESPIRATORY FAILURE, CHRONIC
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia.
   #. RESPIRATORY DISTRESS:  Stable.  Multifactorial given lung cancer,
   COPD requiring oxygen and development of post obstructive pneumonia..
   Broched [**2-12**]  with copius secretions in mainstem bronchi L>R,
   endotrachial tumor at L subsegmental orfice in upper lung/lingula,  R
   mainstem patent, minimal secretions RLL/RML.   Family has elected for
   Trach/PEG.  IP has evaluated the patient and recommends thoracics
   perform the procedure given her anatomy.
   - Continue ctx, levoquin, and flagyl for presumed post obstructive pna
   for full 14 day course.
   - plan trach and peg by Thoracics as early as tomorrow, continue NPO,
   likely remove a line tomorrow
   - titrate sedation if possible
   - cont albuterol/atrovent
   -continue methylprednisolone
   .
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   #. Leukocytosis:  Patient afebrile.  WBC 10.4 today.  Likely [**12-19**] pt
   improving post obstruction pneumonia.
   - cont abx as above
   # Anemia: hct dropped, no signs of active bleeding. Now stable at
   28.2.
   - will check daily HCT
   - transfuse if actively bleeding or <21
   # Hypervolemia
   -goal to keep even
   # Thrombocytopenia: intially concerned for HIT, now stable 215.

 continue to moniter
   # ARF: Likely due to foley obstruction as improved with flushing.
   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-16 17:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Sedated, now on lower doses.
   Awaiting PEG, Trach.
   History obtained from Medical records
   Patient unable to provide history: Sedated, mechanically ventilated
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Ceftriaxone - [**2158-2-16**] 10:00 AM
   Metronidazole - [**2158-2-16**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-16**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-16**] 05:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 81 (61 - 113) bpm
   BP: 156/68(103) {99/43(64) - 164/80(116)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                    938 mL
                                                                  1,019 mL
   PO:
             TF:
                                                                    149 mL
   IVF:
                                                                    759 mL
                                                                  1,019 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    900 mL
   Urine:
                                                                  1,425 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -487 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 390 (390 - 390) mL
   Vt (Spontaneous): 348 (348 - 348) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   204 K/uL
   104 mg/dL
   0.3 mg/dL
   31 mEq/L
   5.2 mEq/L
   23 mg/dL
   103 mEq/L
   141 mEq/L
   29.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2158-2-12**]  05:01 AM
                             [**2158-2-12**]  04:06 PM
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
   WBC
   14.7
   13.8
   11.9
   10.4
   10.4
   11.1
   Hct
   27.1
   26.9
   26.6
   27.0
   28.2
   29.1
   Plt
   170
   174
   174
   [**Telephone/Fax (3) 6719**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   35
   34
   34
   36
   Glucose
   91
   101
   169
   116
   104
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  Awaiting tracheotomy today.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 replete.  Monitor I/O.
   NUTRITIONAL SUPPORT
  For PEG today.
   DISPOSITION -- plan to initiate screening for placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-17 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got trach and PEG
   Can resume TF 24hours post operatively
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Ceftriaxone - [**2158-2-16**] 10:00 AM
   Metronidazole - [**2158-2-16**] 11:41 PM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-16**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-16**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-17**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 108 (61 - 112) bpm
   BP: 156/73(109) {99/47(65) - 164/78(115)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,248 mL
                                                                    132 mL
   PO:
             TF:
   IVF:
                                                                  1,208 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    470 mL
   Urine:
                                                                  1,040 mL
                                                                    370 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    108 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 390 (390 - 390) mL
   Vt (Spontaneous): 515 (348 - 515) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.48/43/87.[**Numeric Identifier 181**]/31/7
   Ve: 5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.0 g/dL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.5 mEq/L
   19 mg/dL
   104 mEq/L
   141 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
   WBC
   13.8
   11.9
   10.4
   10.4
   11.1
   12.8
   Hct
   26.9
   26.6
   27.0
   28.2
   29.1
   27.2
   Plt
   174
   174
   208
   [**Telephone/Fax (3) 6751**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   34
   34
   36
   33
   Glucose
   101
   169
   116
   104
   92
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia, s/p Trach placement today
   #. RESPIRATORY DISTRESS:  Stable.  Patient s/p Trach and Peg placement
   today.  Multifactorial given lung cancer, COPD requiring oxygen and
   development of post obstructive pneumonia..
   - Continue ctx, levoquin, and flagyl for presumed post obstructive pna
   for full 14 day course.
   - plan to administer medications via peg, no TF for 24hrs post op.
   - cont albuterol/atrovent
   -continue methylprednisolone
   .
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   #. Leukocytosis:  Patient afebrile.  WBC 11.1 today.  Likely [**12-19**] pt
   improving post obstruction pneumonia.
   - cont abx as above
   # Anemia: hct stable at 29.2.
   - will check daily HCT
   - transfuse if actively bleeding or <21
   # Hypervolemia
   -goal to keep even
   # Thrombocytopenia: intially concerned for HIT, now stable 215.

 continue to moniter
   # ARF: Likely due to foley obstruction as improved with flushing.
   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. NSTEMI / ACS:  demand ischemia in the setting, but trop stable. And
   CE negative.
   # Hypertension: Continue dilt, sedation prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-17 12:36:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   More awake.
   Remains mechanically ventilated via trach, tolerating IPS mode.
   Complains of throat pain (at trach site).
                                 History obtained from [**Hospital 15**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Metronidazole - [**2158-2-17**] 07:30 AM
   Ceftriaxone - [**2158-2-17**] 08:53 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-17**] 08:00 AM
   Fentanyl - [**2158-2-17**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-17**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 93 (61 - 112) bpm
   BP: 148/62(98) {148/58(95) - 164/78(115)} mmHg
   RR: 21 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,248 mL
                                                                    378 mL
   PO:
             TF:
   IVF:
                                                                  1,208 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    770 mL
   Urine:
                                                                  1,040 mL
                                                                    670 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    108 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 390 (390 - 390) mL
   Vt (Spontaneous): 448 (448 - 660) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 10 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.48/43/87.[**Numeric Identifier 181**]/31/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   206 K/uL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.5 mEq/L
   19 mg/dL
   104 mEq/L
   141 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2158-2-12**]  06:00 PM
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
   WBC
   13.8
   11.9
   10.4
   10.4
   11.1
   12.8
   Hct
   26.9
   26.6
   27.0
   28.2
   29.1
   27.2
   Plt
   174
   174
   208
   [**Telephone/Fax (3) 6751**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   34
   34
   36
   33
   Glucose
   101
   169
   116
   104
   92
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, LLL pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  s/p surgical trach.  Continue current
   level of care.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   PAIN -- optimize pain regimen (s/p trach & PEG).  Transition to PO
   regimen.
   HTN
 optimize PO regimen.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 replete.  Monitor I/O.
   NUTRITIONAL SUPPORT
  resume TF via PEG.
   DISPOSITION -- plan to initiate screening for placement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2158-2-2**] 12:10 AM
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-18 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -resumed TF
   -d/c fentanyl and versed, started percocet, required morphine 1 IV in
   afternoon
   -CXR with no change
   -steroid taper done
   -increased diltiazem dose
   -switched foley and rechecked ucx
   -omed recs no plan for chemo now.  hopefully the radiation she got will
   help.  If respiratory status does not improve can later try chemo.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Ceftriaxone - [**2158-2-17**] 08:53 AM
   Metronidazole - [**2158-2-17**] 04:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-17**] 08:00 AM
   Fentanyl - [**2158-2-17**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-17**] 04:15 PM
   Morphine Sulfate - [**2158-2-17**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-18**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 62 (62 - 105) bpm
   BP: 145/63(83) {103/55(73) - 145/71(83)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                    943 mL
                                                                    149 mL
   PO:
             TF:
                                                                    155 mL
                                                                     85 mL
   IVF:
                                                                    558 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    435 mL
   Urine:
                                                                  1,555 mL
                                                                    435 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (435 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/43/101//4
   Ve: 6.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.0 g/dL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   141 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
   WBC
   13.8
   11.9
   10.4
   10.4
   11.1
   12.8
   Hct
   26.9
   26.6
   27.0
   28.2
   29.1
   27.2
   Plt
   174
   174
   208
   [**Telephone/Fax (3) 6751**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   34
   36
   33
   31
   Glucose
   101
   169
   116
   104
   92
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   82 year old woman with newly diagnosed squamous cell lung cancer,
   presenting with respiratory distress in setting of post obstructive
   pneumonia, s/p Trach placement today
   #. RESPIRATORY DISTRESS:  Stable.  Patient s/p Trach and Peg placement
   yesterday.  Multifactorial. [**Month (only) 51**] need to remain on ventilator
   indefinitely.
   - Continue ctx, levoquin for presumed post obstructive pna for one more
   day
   - Restart TF
   - cont albuterol/atrovent
   -Taper methylprednisolone
   .
   #. Leukocytosis: continues afebrile. WBC trending slightly upward.
   Stool has been negative for c.diff.
   - cont abx as above
   - trend temperatures
   - culture if spikes
   # Anemia: hct trending slowly down, likely chronic disease in
   combination w/ phlebotomy
   - will check daily HCT
   - transfuse if actively bleeding or <21
   # Hypervolemia
 Upper extremities still volume overloaded
   -goal to keep even
   # Thrombocytopenia: resolved

 continue to monitor
   # ARF: Likely due to foley obstruction as improved with flushing.
   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   # Hypertension: increase dilt
   #Dispo: Begin screening
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-18 13:07:00 Physician Attending Progress Note
Chief Complaint: Resp. failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Now off sedation.
   Transient bradycardia
 asymptomatic, spontaneously resolved.
                                 History obtained from [**Hospital 15**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Vancomycin - [**2158-2-18**] 08:00 AM
   Ceftriaxone - [**2158-2-18**] 08:00 AM
   Metronidazole - [**2158-2-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2158-2-17**] 05:20 PM
   Pantoprazole (Protonix) - [**2158-2-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-18**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 65 (62 - 105) bpm
   BP: 137/60(78) {103/55(73) - 153/77(96)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                    943 mL
                                                                  1,033 mL
   PO:
             TF:
                                                                    155 mL
                                                                    325 mL
   IVF:
                                                                    558 mL
                                                                    588 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                  1,145 mL
   Urine:
                                                                  1,555 mL
                                                                  1,145 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (388 - 435) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.45/43/101//4
   Ve: 6.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   206 K/uL
   92 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   104 mEq/L
   141 mEq/L
   27.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2158-2-12**]  10:23 PM
                             [**2158-2-13**]  02:57 AM
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
   WBC
   13.8
   11.9
   10.4
   10.4
   11.1
   12.8
   Hct
   26.9
   26.6
   27.0
   28.2
   29.1
   27.2
   Plt
   174
   174
   208
   [**Telephone/Fax (3) 6751**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.3
   0.3
   TCO2
   34
   36
   33
   31
   Glucose
   101
   169
   116
   104
   92
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:96.0 %, Band:0.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, LLL pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  s/p surgical trach.  Continue current
   level of care.
   PNEUMONIA -- LLL post-obstructive, complete 14 days of treatment.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   PAIN -- optimize pain regimen (s/p trach & PEG).  Transition to PO
   regimen.
   HTN
 optimize PO regimen.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 expanded.  Plan gentle diuresis.  Monitor I/O.
   NUTRITIONAL SUPPORT
  resume TF via PEG.
   DISPOSITION -- Screening for placement in Rehab facilty
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-19 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old F w/ respiratory distress vent dependent on trach
   24 Hour Events:
   Ucx grew yeast, U/A yesterday had been grossly positive
   WBC slowly trending up
   I/O neg 667 at bedtime
   Stopped Abx for PNA (14days CTX/Levo/flagyl)
   Did not attempt trach collar as too anxious
   Discussed placement w/ family- no objections
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-2-16**] 07:54 AM
   Ceftriaxone - [**2158-2-18**] 08:00 AM
   Metronidazole - [**2158-2-18**] 08:00 AM
   Vancomycin - [**2158-2-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-2-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-19**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.6
C (96.1
   HR: 87 (65 - 107) bpm
   BP: 146/75(92) {117/60(74) - 174/87(104)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,771 mL
                                                                    442 mL
   PO:
             TF:
                                                                    798 mL
                                                                    273 mL
   IVF:
                                                                    803 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    370 mL
   Urine:
                                                                  2,920 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,149 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 363 (363 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 7.2 L/min
   Physical Examination
   Gen: Alert, following commands, responding appropriately
   Heart: RRR, No MRG
   Lungs: Diminished breath sounds bilaterally
   Abd: Soft, mildly tender diffusely, BS+, PEG site clean and dry no
   erythema
   Ext: 3+ pitting upper extremity edema, trace LE edema
   Labs / Radiology
   201 K/uL
   8.9 g/dL
   145 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.7 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
   WBC
   10.4
   10.4
   11.1
   12.8
   13.2
   Hct
   27.0
   28.2
   29.1
   27.2
   27.3
   Plt
   [**Telephone/Fax (3) 6776**]06
   201
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   TCO2
   34
   36
   33
   31
   Glucose
   169
   116
   104
   92
   112
   145
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:95.5 %, Band:0.0 %, Lymph:1.5 %, Mono:2.4 %, Eos:0.6
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   82 year old F w/ respiratory distress vent dependent on trach
   #. RESPIRATORY DISTRESS:  Stable.  Patient s/p Trach and Peg
   placement.  Has finished course of Abx for PNA today. Afebrile.
   - d/c CTX/Levaquin/flagyl
   - cont albuterol/atrovent
   -Taper methylprednisolone
   .
   #. Leukocytosis: continues afebrile. No labs yet today. Likely has UTI
   but will f/u culture before starting different Abx and doubt that UTI
   would cause leukocytosis.
   - d/c abx as above
   - trend temperatures
   - culture if spikes
   -trend WBC
   # Anemia: hct stable
   - minimize phlebotomy
   - transfuse if actively bleeding or <21
   # Hypervolemia
 Upper extremities still volume overloaded
   -diurese goal 500-1000cc negative
   # Thrombocytopenia: resolved

 continue to monitor
   # ARF: Resolved   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   # Hypertension: Better controlled, unlikely that she will benefit from
   aggressive BP control given her Px.
   continue dilt
   #Dispo: screening
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-19**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-19 12:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Tolerated trach collar this AM x 3 hrs.
   Offers no new complaints.
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-18**] 08:00 AM
   Ceftriaxone - [**2158-2-18**] 08:00 AM
   Metronidazole - [**2158-2-19**] 08:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-19**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Trach
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-19**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (68 - 107) bpm
   BP: 141/59(80) {117/59(74) - 174/87(104)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,771 mL
                                                                    888 mL
   PO:
             TF:
                                                                    798 mL
                                                                    503 mL
   IVF:
                                                                    803 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  1,270 mL
   Urine:
                                                                  2,920 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,149 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 243 (0 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   201 K/uL
   145 mg/dL
   0.3 mg/dL
   29 mEq/L
   4.7 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   27.3 %
   13.2 K/uL
         [image002.jpg]
                             [**2158-2-13**]  11:37 AM
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
   WBC
   10.4
   10.4
   11.1
   12.8
   13.2
   Hct
   27.0
   28.2
   29.1
   27.2
   27.3
   Plt
   [**Telephone/Fax (3) 6776**]06
   201
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   TCO2
   34
   36
   33
   31
   Glucose
   169
   116
   104
   92
   112
   145
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:95.5 %, Band:0.0 %, Lymph:1.5 %, Mono:2.4 %, Eos:0.6
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, LLL pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  s/p surgical trach.  Continue current
   level of care.  Working towards increasing trach [**Last Name (un) 6792**] trials.
   Consider speech consult for Passe-Muir valve is able to tolerate trach
   collar.
   PNEUMONIA -- LLL post-obstructive, completed 14 days of treatment.
   Monitor off antimicrobials.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   PAIN -- optimize pain regimen (s/p trach & PEG).  Transition to PO
   regimen --> prn.
   HTN
 optimize PO regimen.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   FLUIDS
 expanded.  Plan gentle diuresis.  Monitor I/O.
   NUTRITIONAL SUPPORT
  resume TF via PEG.
   DISPOSITION -- Screening for placement to Rehab facilty
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-19**] 11:51 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-20 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   82 year old F w/ respiratory distress vent dependent on trach
   24 Hour
   -  Attemped Trach mask for 4 hrs, but tired, on it again this AM and
   doing ok
   - Started lisnopril 2.5mg yesterday
   - Switched PPI yesterday
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2158-2-18**] 08:00 AM- discontinued
   Vancomycin - [**2158-2-18**] 08:00 AM- discontinued
   Metronidazole - [**2158-2-19**] 08:33 AM- discontinued
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-2-20**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pt is feeling well.
   Flowsheet Data as of  [**2158-2-20**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 89 (65 - 108) bpm
   BP: 139/68(85) {115/58(73) - 157/93(111)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,527 mL
                                                                    346 mL
   PO:
             TF:
                                                                    966 mL
                                                                    261 mL
   IVF:
                                                                    341 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,120 mL
   Urine:
                                                                  2,320 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -793 mL
                                                                   -773 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 268 (0 - 551) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 8 L/min
   Physical Examination
   Gen: alert, awake, answering questions
   Cardiac: RRR n s1/s2 no m/r/g
   Pulm: CTAB anetriorly somewhat decreased breath sounds
   Abd: soft NTND no HSM
   Extremities: edema in UE especially on hands, no LE edema
   Labs / Radiology
   189 K/uL
   9.9 g/dL
   129 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.7 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   30.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
                             [**2158-2-20**]  03:22 AM
   WBC
   10.4
   10.4
   11.1
   12.8
   13.2
   10.0
   Hct
   27.0
   28.2
   29.1
   27.2
   27.3
   30.8
   Plt
   [**Telephone/Fax (2) 6798**]
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   0.3
   TCO2
   36
   33
   31
   Glucose
   169
   116
   104
   92
   112
   145
   129
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:94.6 %, Band:0.0 %, Lymph:1.6 %, Mono:2.6 %, Eos:0.8
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 year old F w/ respiratory distress vent dependent on trach
   #. RESPIRATORY DISTRESS:  Stable.  Patient s/p Trach and Peg
   placement.  Has finished course of Abx.  Patient tolerating trach mask
   this AM.
   -if pt tires on trach mask switch back to PS.
   - cont albuterol/atrovent
   -d/c methylprednisolone  (was on for COPD)
   -consult for passe muir valve
   .
   # Hypertension: SBP in 140-160s.  Patient had dose of dilt increased
   yesterday to 60mg.
   - Continue diltiazem & lisinopril
   #. Leukocytosis: Continues afebrile. WBC trending down
   - trend temperatures
   - culture if spikes
   # Anemia: hct stable
   - minimize phlebotomy
   - transfuse if actively bleeding or <21
   # Hypervolemia
 Upper extremities still volume overloaded
   -pt autodiuresing
   # Thrombocytopenia: resolved

 continue to monitor
   # ARF: Resolved   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   #Dispo:
   -screening by [**Hospital1 5523**] today (pt has bed at [**Hospital 328**] rehab but family
   would prefer [**Hospital1 5523**])
   -PT to see pt today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-19**] 11:46 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU for now, to rehab when she has a bed

2158-02-20 12:15:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.  Poor tolerance for trach
   collar yesterday, but tolerating this AM.
   Ativan for anxiety.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-18**] 08:00 AM
   Ceftriaxone - [**2158-2-18**] 08:00 AM
   Metronidazole - [**2158-2-19**] 08:33 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-2-20**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-20**] 08:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-20**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 85 (65 - 108) bpm
   BP: 132/57(76) {115/57(73) - 157/93(111)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,527 mL
                                                                    563 mL
   PO:
             TF:
                                                                    966 mL
                                                                    471 mL
   IVF:
                                                                    341 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                  1,780 mL
   Urine:
                                                                  2,320 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -793 mL
                                                                 -1,217 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 268 (203 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   189 K/uL
   129 mg/dL
   0.3 mg/dL
   32 mEq/L
   4.7 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   30.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2158-2-14**]  03:58 AM
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
                             [**2158-2-20**]  03:22 AM
   WBC
   10.4
   10.4
   11.1
   12.8
   13.2
   10.0
   Hct
   27.0
   28.2
   29.1
   27.2
   27.3
   30.8
   Plt
   [**Telephone/Fax (2) 6798**]
   Cr
   0.4
   0.3
   0.3
   0.3
   0.2
   0.3
   0.3
   TCO2
   36
   33
   31
   Glucose
   169
   116
   104
   92
   112
   145
   129
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:94.6 %, Band:0.0 %, Lymph:1.6 %, Mono:2.6 %, Eos:0.8
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, LLL pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  s/p surgical trach.  Continue current
   level of care.  Working towards increasing trach [**Last Name (un) 6792**] trials.
   Consider speech consult for Passe-Muir valve is able to tolerate trach
   collar.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   PNEUMONIA -- LLL post-obstructive, completed 14 days of treatment.
   Monitor off antimicrobials.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   PAIN -- optimize pain regimen (s/p trach & PEG).  Transition to PO
   regimen --> prn.
   HTN
 optimize PO regimen.
   FLUIDS
 expanded.  Plan gentle diuresis.  Monitor I/O.
   NUTRITIONAL SUPPORT
  resume TF via PEG.
   DISPOSITION -- Screening for placement to Rehab facilty
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2158-02-21 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt has a bed
   -pt was on trach collar all day, around midnight [**Last Name (un) 6824**] she was a little
   tired but did not want to go on the vent
   -steroid d/c (was on for COPD)
   -pt seen by PT
   -heme onc recs: current infection must clear prior to any chemo. they
   will make thoracic onc aware of pt and appt will be scheduled after pt
   d/c. heme onc will contact pt as outpt to arrange f/u. They signed off.
   - Pt on trach collar most of day, restarted vent late overnight
   secondary to desaturation
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2158-2-18**] 08:00 AM
   Ceftriaxone - [**2158-2-18**] 08:00 AM
   Metronidazole - [**2158-2-19**] 08:33 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2158-2-20**] 08:44 AM
   Heparin Sodium (Prophylaxis) - [**2158-2-20**] 08:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-2-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 79 (73 - 112) bpm
   BP: 132/46(66) {121/46(57) - 157/105(115)} mmHg
   RR: 21 (11 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,227 mL
                                                                    439 mL
   PO:
             TF:
                                                                    967 mL
                                                                    303 mL
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,160 mL
   Urine:
                                                                  3,540 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,313 mL
                                                                   -721 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   SpO2: 99%
   ABG: ///33/
   Ve: 8.9 L/min
   Physical Examination
   Gen: alert, awake, answering questions
   Cardiac: RRR n s1/s2 no m/r/g
   Pulm: CTAB anetriorly somewhat decreased breath sounds
   Abd: soft NTND no HSM
   Extremities: edema in UE especially on hands, no LE edema
   Labs / Radiology
   190 K/uL
   10.0 g/dL
   108 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   143 mEq/L
   30.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
                             [**2158-2-20**]  03:22 AM
                             [**2158-2-21**]  03:59 AM
   WBC
   10.4
   11.1
   12.8
   13.2
   10.0
   12.0
   Hct
   28.2
   29.1
   27.2
   27.3
   30.8
   30.4
   Plt
   [**Telephone/Fax (2) 6825**]
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   0.3
   0.2
   TCO2
   36
   33
   31
   Glucose
   116
   104
   92
   112
   145
   129
   108
   Other labs:, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   82 year old F w/ respiratory distress vent dependent on trach
   #. RESPIRATORY DISTRESS:  Stable.  Patient s/p Trach and Peg
   placement.  Has finished course of Abx.  Patient tolerating trach mask
   this AM.
   -if pt tires on trach mask switch back to PS.
   - cont albuterol/atrovent
   -d/c methylprednisolone  (was on for COPD)
   -consult for passe muir valve
   .
   # Hypertension: SBP in 140-160s.  Patient had dose of dilt increased
   yesterday to 60mg.
   - Continue diltiazem & lisinopril
   #. Leukocytosis: Continues afebrile. WBC trending down
   - trend temperatures
   - culture if spikes
   # Anemia: hct stable
   - minimize phlebotomy
   - transfuse if actively bleeding or <21
   # Hypervolemia
 Upper extremities still volume overloaded
   -pt autodiuresing
   # Thrombocytopenia: resolved

 continue to monitor
   # ARF: Resolved   Creatinine today 0.3.
   #. COMPRESSION FRACTURES: Asymptomatic s/p kyphoplasty. [**Month (only) 51**] be [**12-19**]
   mets.
   #. SQUAMOUS CELL LUNG CANCER:  pt already finished course of
   radiation.
   #Dispo:
   -screening by [**Hospital1 5523**] today (pt has bed at [**Hospital 328**] rehab but family
   would prefer [**Hospital1 5523**])
   -PT to see pt today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-20**] 11:35 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2158-02-21 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2158-2-21**] 05:52 AM
   Tolerating trach collar this AM.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Metronidazole - [**2158-2-19**] 08:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2158-2-21**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 79 (73 - 112) bpm
   BP: 132/46(66) {121/46(57) - 157/105(115)} mmHg
   RR: 21 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.6 kg (admission): 59.4 kg
   Height: 62 Inch
             Total In:
                                                                  1,227 mL
                                                                    594 mL
   PO:
             TF:
                                                                    967 mL
                                                                    392 mL
   IVF:
                                                                    240 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,260 mL
   Urine:
                                                                  3,540 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,313 mL
                                                                   -666 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   SpO2: 99%
   ABG: ///33/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   190 K/uL
   108 mg/dL
   0.2 mg/dL
   33 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   143 mEq/L
   30.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2158-2-15**]  04:06 AM
                             [**2158-2-15**]  09:20 AM
                             [**2158-2-16**]  04:32 AM
                             [**2158-2-16**]  11:59 PM
                             [**2158-2-17**]  04:00 AM
                             [**2158-2-17**]  04:38 PM
                             [**2158-2-18**]  03:46 PM
                             [**2158-2-19**]  05:13 AM
                             [**2158-2-20**]  03:22 AM
                             [**2158-2-21**]  03:59 AM
   WBC
   10.4
   11.1
   12.8
   13.2
   10.0
   12.0
   Hct
   28.2
   29.1
   27.2
   27.3
   30.8
   30.4
   Plt
   [**Telephone/Fax (2) 6825**]
   Cr
   0.3
   0.3
   0.3
   0.2
   0.3
   0.3
   0.2
   TCO2
   36
   33
   31
   Glucose
   116
   104
   92
   112
   145
   129
   108
   Other labs: PT / PTT / INR:12.7/19.8/1.1, CK / CKMB /
   Troponin-T:14/3/0.16, ALT / AST:53/62, Alk Phos / T Bili:166/0.2,
   Differential-Neuts:94.6 %, Band:0.0 %, Lymph:1.6 %, Mono:2.6 %, Eos:0.8
   %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:210 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory failure, lung cancer, LLL pneumonia
   RESPIRATORY FAILURE, ACUTE -- attributed to post-obstructive pneumonia,
   underlying malignancy, COPD.  s/p surgical trach.  Continue current
   level of care. Good progress with trach collar --> continue working
   towards increasing duration of trach collar trials.
   RESPIRATORY FAILURE, CHRONIC -- COPD underlying, advanced.  LLL
   pneumonia.  Continue to optimize medications.  Taper steroids.  Aim for
   SaO2 >90%
   PNEUMONIA -- LLL post-obstructive, completed 14 days of treatment.
   Monitor off antimicrobials.
   CANCER, LUNG -- metastatic (CNS); post obstructive LLL pneumonia. s/p 5
   days of XRT.  Need to determine whether additional treatment plans are
   indicated.
   PAIN -- optimize pain regimen (s/p trach & PEG).  Transition to PO
   regimen --> prn.
   HTN
 optimize PO regimen.
   FLUIDS
 expanded.  Plan gentle diuresis.  Monitor I/O.
   NUTRITIONAL SUPPORT
  resume TF via PEG.
   DISPOSITION -- Screening for placement to Rehab facilty
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2158-2-20**] 11:35 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2158-2-3**] 10:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  transfer to rehab
   Total time spent:   35 minutes